US07459263B2
First, dibutyl acetylenedicarboxylate was prepared. A mixture of 2-butynedioic acid (5.0 g, 44 mmol), n-butyl alcohol (162 g, 2.19 mol), and sulfuric acid (0.86 g, 9 mmol) was heated at reflux for 6 hours. The mixture was cooled to ambient, washed with 10% aqueous NaHCO3 then with brine, dried (Na2SO4), concentrated, and the resulting crude product distilled under reduced pressure (bp 65-70° C./0.08 mm). Dibutyl acetylenedicarboxylate was obtained as a colorless oil (8.5 g, 86% of theory). 1H NMR (CDCl3): δ 1.90 (t, 6H), 1.38 (m, 4H), 1.65 (m, 4H), 4.20 (t, 4H).

reactant | 2-butynedioic acid | 44 mmol, 5.0 g | C(C#CC(=O)O)(=O)O | C4H2O4
reactant | n-butyl alcohol | 2.19 mol, 162 g | C(CCC)O | C4H10O
reactant | sulfuric acid | 9 mmol, 0.86 g | S(O)(O)(=O)=O | H2O4S
product | dibutyl acetylenedicarboxylate | C(#CC(=O)OCCCC)C(=O)OCCCC | C12H18O4
